US07361763B2
Step 2: Synthesis of N-(5-bromo-3-trimethylsilanylethynyl-pyridin-2-yl)-acetamide
To a suspension of N-(5-bromo-3-iodo-pyridin-2-yl)-acetamide (6.42 g, 18.83 mmol) in dichloromethane (90 ml) was added triethyl amine (3.15 ml, 22.6 mmol), then the mixture was cooled to 0° C. and dichlorobis(triphenylphosphino)palladium (II) (66 mg, 0.094 mmol) and copper(I) iodide (36 mg, 0.188 mmol) were added sequentially. Finally trimethylsilylacetylene (2.93 ml, 20.71 mmol) was added dropwise, and the ice bath was removed. After stirring at room temperature for 17 hours, the crude mixture was directly adsorbed on silica gel. Purification by flash chromatography on silica gel with a gradient of ethyl acetate/hexane afforded the title compound as light yellow solid (4.75 g, 81% yield). 1H NMR (DMSO-d6): δ 9.99 (s, 1H), 8.31 (d, J=2.5 Hz, 1H), 7.95 (d, J=2.5 Hz, 1H), 1.82 (s, 3H), 0.00 (s, 9H); HPLC/MS m/z: 311, 313 [MH]+.

reactant | N-(5-bromo-3-iodo-pyridin-2-yl)-acetamide | 18.83 mmol, 6.42 g | BrC=1C=C(C(=NC1)NC(C)=O)I | C7H6BrIN2O
reactant | triethyl amine | 22.6 mmol, 3.15 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylsilylacetylene | 20.71 mmol, 2.93 ml | C[Si](C)(C)C#C | C5H10Si
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
catalyst | dichlorobis(triphenylphosphino)palladium (II) | 0.094 mmol, 66 mg | Cl[Pd-2](P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)Cl
catalyst | copper(I) iodide | 0.188 mmol, 36 mg | [Cu]I
product | N-(5-bromo-3-trimethylsilanylethynyl-pyridin-2-yl)-acetamide | 4.75 g, 81% yield | BrC=1C=C(C(=NC1)NC(C)=O)C#C[Si](C)(C)C | C12H15BrN2OSi
